### PR TITLE
[Merged by Bors] - feat: port Data.Set.Pointwise.Basic

### PR DESCRIPTION
**Pull request by dupuisf**
- [x] depends on: https://github.com/leanprover/std4/pull/83
- [x] depends on: https://github.com/JLimperg/aesop/pull/38
- [x] depends on: #1447

### CODE REVIEW

File: Mathlib/Data/Set/Pointwise/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,1171 @@
...
+variable [One α] {s : Set α} {a : α}
+
+/-- The set `1 : set α` is defined as `{1}` in locale `pointwise`. -/
+@[to_additive "The set `0 : set α` is defined as `{0}` in locale `pointwise`."]
+protected noncomputable def hasOne : One (Set α) :=
+  ⟨{1}⟩
+#align set.has_one Set.hasOne
+
+scoped[Pointwise] attribute [instance] Set.hasOne Set.hasZero
+
```
Comment (dupuisf) [inline Mathlib/Data/Set/Pointwise/Basic.lean:90]: This PR is currently stuck on this line; scoped instance attributes seem to be currently unsupported.

Comment (hrmacbeth) [reply Mathlib/Data/Set/Pointwise/Basic.lean:90]: To report here the upshot of this thread: this is apparently actually a bug in lean core.  PR https://github.com/leanprover/lean4/pull/2008 should fix it.

Comment (jcommelin) [reply Mathlib/Data/Set/Pointwise/Basic.lean:90]: That PR has been merged.

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover/std4#83
* JLimperg/aesop#38
* leanprover-community/mathlib4#1447
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover/std4#83~~
* ~~JLimperg/aesop#38~~
* ~~leanprover-community/mathlib4#1447~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/Data/Set/Pointwise/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,1189 @@
...
+@[to_additive]
+theorem isUnit_singleton (a : α) : IsUnit ({a} : Set α) :=
+  (Group.isUnit a).set
+#align set.is_unit_singleton Set.isUnit_singleton
+
+@[to_additive (attr := simp)]
+theorem isUnit_iff_singleton : IsUnit s ↔ ∃ a, s = {a} := by
+  simp only [isUnit_iff, Group.isUnit, and_true_iff]
+#align set.is_unit_iff_singleton Set.isUnit_iff_singleton
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Set/Pointwise/Basic.lean:1034]:
```lean
#check Set.isAddUnit_iff_singleton.{u_1} /- Left-hand side simplifies from
  IsAddUnit s
to
  ∃ a, s = {a} ∧ IsAddUnit a
using
  simp only [@Set.isAddUnit_iff]
Try to change the left-hand side to the simplified term!
 -/
#check Set.isUnit_iff_singleton.{u_1} /- Left-hand side simplifies from
  IsUnit s
to
  ∃ a, s = {a} ∧ IsUnit a
using
  simp only [@Set.isUnit_iff]
Try to change the left-hand side to the simplified term!
 -/
```

Not sure what to do here. Does it need priority? How does that work with `to_additive`?

File: Mathlib/Data/Set/Pointwise/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,1189 @@
...
+
+For sets `s` and `t` and scalar `a`:
+* `s * t`: Multiplication, set of all `x * y` where `x ∈ s` and `y ∈ t`.
+* `s + t`: Addition, set of all `x + y` where `x ∈ s` and `y ∈ t`.
+* `s⁻¹`: Inversion, set of all `x⁻¹` where `x ∈ s`.
+* `-s`: Negation, set of all `-x` where `x ∈ s`.
+* `s / t`: Division, set of all `x / y` where `x ∈ s` and `y ∈ t`.
+* `s - t`: Subtraction, set of all `x - y` where `x ∈ s` and `y ∈ t`.
+
+For `α` a semigroup/monoid, `set α` is a semigroup/monoid.
```
Comment (jcommelin) [inline Mathlib/Data/Set/Pointwise/Basic.lean:33]:
```suggestion
For `α` a semigroup/monoid, `Set α` is a semigroup/monoid.
```

File: Mathlib/Data/Set/Pointwise/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,1189 @@
...
+
+Appropriate definitions and results are also transported to the additive theory via `to_additive`.
+
+## Implementation notes
+
+* The following expressions are considered in simp-normal form in a group:
+  `(λ h, h * g) ⁻¹' s`, `(λ h, g * h) ⁻¹' s`, `(λ h, h * g⁻¹) ⁻¹' s`, `(λ h, g⁻¹ * h) ⁻¹' s`,
+  `s * t`, `s⁻¹`, `(1 : set _)` (and similarly for additive variants).
+  Expressions equal to one of these will be simplified.
+* We put all instances in the locale `pointwise`, so that these instances are not available by
```
Comment (jcommelin) [inline Mathlib/Data/Set/Pointwise/Basic.lean:46]:
```suggestion
* We put all instances in the locale `Pointwise`, so that these instances are not available by
```

File: Mathlib/Data/Set/Pointwise/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,1189 @@
...
+#align set.coe_singleton_one_hom Set.coe_singletonOneHom
+
+end One
+
+/-! ### Set negation/inversion -/
+
+
+section Inv
+
+/-- The pointwise inversion of set `s⁻¹` is defined as `{x | x⁻¹ ∈ s}` in locale `pointwise`. It is
```
Comment (jcommelin) [inline Mathlib/Data/Set/Pointwise/Basic.lean:152]:
```suggestion
/-- The pointwise inversion of set `s⁻¹` is defined as `{x | x⁻¹ ∈ s}` in locale `Pointwise`. It is
```

File: Mathlib/Data/Set/Pointwise/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,1189 @@
...
+
+/-! ### Set addition/multiplication -/
+
+
+section Mul
+
+variable {ι : Sort _} {κ : ι → Sort _} [Mul α] {s s₁ s₂ t t₁ t₂ u : Set α} {a b : α}
+
+/-- The pointwise multiplication of sets `s * t` and `t` is defined as `{x * y | x ∈ s, y ∈ t}` in
+locale `pointwise`. -/
```
Comment (jcommelin) [inline Mathlib/Data/Set/Pointwise/Basic.lean:289]:
```suggestion
locale `Pointwise`. -/
```

File: Mathlib/Data/Set/Pointwise/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,1189 @@
...
+@[to_additive
+      "The pointwise addition of sets `s + t` is defined as `{x + y | x ∈ s, y ∈ t}` in locale
+      `pointwise`."]
```
Comment (jcommelin) [inline Mathlib/Data/Set/Pointwise/Basic.lean:292]:
```suggestion
      `Pointwise`."]
```

File: Mathlib/Data/Set/Pointwise/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,1189 @@
...
+
+/-! ### Set negation/inversion -/
+
+
+section Inv
+
+/-- The pointwise inversion of set `s⁻¹` is defined as `{x | x⁻¹ ∈ s}` in locale `pointwise`. It is
+equal to `{x⁻¹ | x ∈ s}`, see `set.image_inv`. -/
+@[to_additive
+      "The pointwise negation of set `-s` is defined as `{x | -x ∈ s}` in locale `pointwise`.
```
Comment (jcommelin) [inline Mathlib/Data/Set/Pointwise/Basic.lean:155]:
```suggestion
      "The pointwise negation of set `-s` is defined as `{x | -x ∈ s}` in locale `Pointwise`.
```

File: Mathlib/Data/Set/Pointwise/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,1189 @@
...
+
+section Div
+
+variable {ι : Sort _} {κ : ι → Sort _} [Div α] {s s₁ s₂ t t₁ t₂ u : Set α} {a b : α}
+
+/-- The pointwise division of sets `s / t` is defined as `{x / y | x ∈ s, y ∈ t}` in locale
+`pointwise`. -/
+@[to_additive
+      "The pointwise subtraction of sets `s - t` is defined as `{x - y | x ∈ s, y ∈ t}` in locale
+      `pointwise`."]
```
Comment (jcommelin) [inline Mathlib/Data/Set/Pointwise/Basic.lean:512]:
```suggestion
`Pointwise`. -/
@[to_additive
      "The pointwise subtraction of sets `s - t` is defined as `{x - y | x ∈ s, y ∈ t}` in locale
      `Pointwise`."]
```

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
